US04150135
A. 4a-(M-Methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline
A solution of 4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline (6.0 g) in 250 ml of glacial acetic acid was treated with 1 g of 5% palladium on carbon and the mixture hydrogenated under 40 psi of hydrogen for 24 hours in a Parr shaker. The catalyst was then filtered off and the filtrate evaporated. The residual 4a-(m-methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline was recrystallized from ethanol, m.p. 189-190.

reactant | 4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | 6.0 g | COC=1C=C(C=CC1)C12CC(NC(C2=CCCC1)=O)=O | C16H17NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 4a-(M-Methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline | COC=1C=C(C=CC1)[C@@]12CC(NC([C@@H]2CCCC1)=O)=O | C16H19NO3
